US07601726B2
4-Chloro-2-methylsulfanyl-pyrimidine-5-carbonitrile (prepared as described in US2003158218, 0.509 g, 2.74 mmol), tert-butyl carbazate (tert-butoxycarbonyl hydrazine, 0.403 g, 3.05 mmol) and triethylamine (0.57 mL, 4.1 mmol) were added to 25 mL THF. The reaction mixture was stirred 22 hours, and then 25 mL diethyl ether was added and the reaction mixture was filtered through Celite. The filtrate was concentrated under reduced pressure and the resulting oil was chromatographed through silica (0%-33% EtOAc in hexanes) to give 0.64 g of N′-(5-cyano-2-methylsulfanyl-pyrimidin-4-yl)-hydrazinecarboxylic acid tert-butyl ester.

reactant | 4-Chloro-2-methylsulfanyl-pyrimidine-5-carbonitrile | 2.74 mmol, 0.509 g | ClC1=NC(=NC=C1C#N)SC | C6H4ClN3S
reactant | tert-butyl carbazate | 3.05 mmol, 0.403 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | triethylamine | 4.1 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | N′-(5-cyano-2-methylsulfanyl-pyrimidin-4-yl)-hydrazinecarboxylic acid tert-butyl ester | 0.64 g | C(C)(C)(C)OC(=O)NNC1=NC(=NC=C1C#N)SC | C11H15N5O2S
